US09062056B2
(R)-3-(2-Cyclopropyl-8-oxo-7,8-dihydro-purin-9-yl)-3-phenyl-propionic acid ethyl ester
(R)-3-(5-Amino-2-cyclopropyl-pyrimidin-4-ylamino)-3-phenyl-propionic acid ethyl ester (880 mg, 2.7 mmol) was dissolved in THF (10 ml). To the solution CDI was added and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with Ethyl acetate (100 ml) washed with water, dried over MgSO4, filtered and evaporated to dryness. The black residue obtained was purified by chromatography, eluded with 3% methanol in dichloromethane to give oil (427 mg, 45%).

reactant | (R)-3-(5-Amino-2-cyclopropyl-pyrimidin-4-ylamino)-3-phenyl-propionic acid ethyl ester | 2.7 mmol, 880 mg | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=NC=C1N)C1CC1)=O | C18H22N4O2
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (R)-3-(2-Cyclopropyl-8-oxo-7,8-dihydro-purin-9-yl)-3-phenyl-propionic acid ethyl ester | 427 mg, 45% | C(C)OC(C[C@H](C1=CC=CC=C1)N1C2=NC(=NC=C2NC1=O)C1CC1)=O | C19H20N4O3
